US07144913B2
Step 2: 2-Bromo-3-(4-chlorobenzyl)-1H-indole
To a solution of 2 g of 3-(4-chlorobenzyl)-1H-indole in 50 mL of CCl4 was added 1.8 g of NBS. The reaction mixture was stirred for 1 hour at room temperature and diluted with 50 mL of 5:1 hexane/EtOAc. The mixture was then filtered through a pad of silica gel and the filtrate was concentrated under reduced pressure to give the crude title compound, which was used for the next step without further purification.

reactant | 3-(4-chlorobenzyl)-1H-indole | 2 g | ClC1=CC=C(CC2=CNC3=CC=CC=C23)C=C1 | C15H12ClN
reactant | NBS | 1.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | hexane EtOAc | 50 mL | CCCCCC.CCOC(=O)C
product | 2-Bromo-3-(4-chlorobenzyl)-1H-indole | BrC=1NC2=CC=CC=C2C1CC1=CC=C(C=C1)Cl | C15H11BrClN
